US05192765
1-Diphenylmethoxy-2-(4-methoxyphenethylamino)-2-methylpropane
The title compound was prepared as described in Example 1 using 4-methoxyphenethyl bromide and 2-amino-1-diphenylmethoxy-2-methylpropane (see Preparation 1). The title compound was obtained as a colourless oil (378 mg, 33%).

reactant | 4-methoxyphenethyl bromide | COC1=CC=C(CCBr)C=C1 | C9H11BrO
reactant | 2-amino-1-diphenylmethoxy-2-methylpropane | NC(COC(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C17H21NO
product | 1-Diphenylmethoxy-2-(4-methoxyphenethylamino)-2-methylpropane | C1(=CC=CC=C1)C(OCC(C)(C)NCCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C26H31NO2
